US08557805B2
4-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)aniline
A mixture of 2-(methoxymethyl)-5-[4-nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenoxy]pyridine (680 mg), iron powder (530 mg), calcium chloride (20 mg), water (3 mL), and ethanol (15 mL) was heated under reflux for 3 hr. The reaction solution was cooled to room temperature, filtered through celite, and the filtrate was concentrated. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (hexane:ethyl acetate=4:1 to 1:4, volume ratio) to give the title compound (480 mg, yield 76%) as a brown oil.

reactant | 2-(methoxymethyl)-5-[4-nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenoxy]pyridine | 680 mg | COCC1=NC=C(C=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC1CCOCC1 | C18H20N2O6
reactant | calcium chloride | 20 mg | [Cl-].[Ca+2].[Cl-]
reactant | water | 3 mL | O | H2O
reactant | ethanol | 15 mL | C(C)O | C2H6O
catalyst | iron | 530 mg | [Fe] | Fe
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 480 mg, yield 76% | COCC1=CC=C(C=N1)OC1=CC(=C(N)C=C1)OC1CCOCC1 | C18H22N2O4
